US07253281B2
c) (R)-4-Methyl-7-trifluoromethyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
(R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester (4.9 g, 12 mmol) was dissolved in dichloromethane (40 mL) and treated with trifluoroacetic acid (18.3 mL) at 0° C. After removal of the ice bath, the solution was stirred for 30 min, and evaporated under reduced pressure. The residue was dissolved in methanol (40 mL), then after addition of saturated sodium bicarbonate solution (90 mL) the mixture was stirred for 20 h at room temperature. Water (100 mL) was added and the mixture was extracted with dichloromethane (2×100 mL). The organic layer was separated, washed with brine, dried (MgSO4), and evaporated. Chromatography on silica gel with hexane/ethyl acetate (1:1) yielded the title compound as a white solid (2.9 g, 90%). M.p.: 201–204° C., EI-MS: m/e=268.2 (M+), αD20=+7.5

reactant | (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester | 12 mmol, 4.9 g | C(C)OC(=O)C=1N(C2=CC(=CC=C2C1)C(F)(F)F)[C@@H](CNC(=O)OC(C)(C)C)C | C20H25F3N2O4
reactant | trifluoroacetic acid | 18.3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (R)-4-Methyl-7-trifluoromethyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 2.9 g, 90% | C[C@@H]1CNC(C=2N1C=1C=C(C=CC1C2)C(F)(F)F)=O | C13H11F3N2O
